US05672709
3 -Butyloxy-4-(3-azetidinyloxy)-1,2,5-thiadiazole
A suspension of NaH (0.24 g, 0.006 mol) in THF (30 mL) was treated with 1-t-butylcarbamoyl-3-hydroxyazetidine (1.1 g, 0.006 mol), the reaction stirred 1 h, followed by addition of 3-butyloxy-4-methanesulfonyl-1,2,5-thiadiazole (1.0 g, 0.0042 mol) in THF (5 mL). The reaction was heated to reflux for 4 h, the solvent evaporated, the residue treated with ice-water, and the mixture extracted with EtOAc. The extracts were dried and treated with a slow stream of HCl for 3 min. After 0.5 h, the solvent was evaporated, the residue treated with ice-water, and the solution extracted with ether. The aqueous phase was made basic, extracted with EtOAc, the extracts washed with brine, dried, and the solvent evaporated to give a clear oil. The HCl salt (0.77 g) crystallized from 2-propanol, m.p. 167°-168.5° C. (Compound 50).

reactant | NaH | 0.006 mol, 0.24 g | [H-].[Na+]
reactant | 1-t-butylcarbamoyl-3-hydroxyazetidine | 0.006 mol, 1.1 g | C(C)(C)(C)NC(=O)N1CC(C1)O | C8H16N2O2
reactant | 3-butyloxy-4-methanesulfonyl-1,2,5-thiadiazole | 0.0042 mol, 1.0 g | C(CCC)OC1=NSN=C1S(=O)(=O)C | C7H12N2O3S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3 -Butyloxy-4-(3-azetidinyloxy)-1,2,5-thiadiazole | C(CCC)OC1=NSN=C1OC1CNC1 | C9H15N3O2S
